### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction): left adjoint is faithful iff unit is mono, etc.

### PR DESCRIPTION
**Pull request by dagurtomas**
We prove the full Lemma 4.5.13 in Riehl's *Category Theory in Context*, characterizing when a left/right adjoint is full, resp. faithful, resp fully faithful in terms of the unit/counit being various types of epi/mono/iso. Earlier we only had the statements for fully faithful functors.

---
This can be used to show that the functor from topological spaces to condensed sets is faithful, see #14455 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 1]
```diff
@@ -1,23 +1,32 @@
...
+* faithful, if and only if the counit is an epimorphism
+* full, if and only if the counit is a split monomorphism
+* fully faithful, if and only if the counit is an isomorphism
 
-The statements from Riehl 4.5.13 for adjoints which are either full, or faithful.
+This is Lemma 4.5.13 in Riehl's *Category Theory in Context* [riehl2017].
+See also https://stacks.math.columbia.edu/tag/07RB for the statements about fully faithful functors.
+
+In the file `Mathlib.CategoryTheory.Monad.Adjunction`, we prove that in fact, if there exists an
+isomorphism `L ⋙ R ≅ 𝟭 C`, then the unit is an isomorphism, and similarly for the counit.
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:29]: Could be nice to give a reference to the decl here

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 2]
```diff
@@ -35,50 +44,49 @@ variable {C : Type u₁} [Category.{v₁} C]
...
-            simp only [Adjunction.homEquiv_counit, Functor.preimage_comp,
-              Functor.preimage_map, Category.assoc]
-            rw [← h.unit_naturality]
-            simp⟩⟩⟩
+/-- If the left adjoint is faithful, then each component of the unit is an monomorphism. -/
+instance unit_mono_of_L_faithful [L.Faithful] (X : C) : Mono (h.unit.app X) where
+  right_cancellation {Y} f g hfg := by
+    apply L.map_injective
+    apply (h.homEquiv Y (L.obj X)).injective
+    simpa using hfg
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:52]:
```suggestion
  right_cancellation {Y} f g hfg :=
    L.map_injective <| (h.homEquiv Y (L.obj X)).injective <| by simpa using hfg
```
A golf, if you'd like

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 3]
```diff
@@ -35,50 +44,49 @@ variable {C : Type u₁} [Category.{v₁} C]
...
+  id := by simp [← h.unit_naturality (L.preimage (h.counit.app (L.obj X)))]
+
+/-- If the right adjoint is full, then each component of the counit is a split monomorphism. -/
+instance unit_isSplitEpi_of_L_full [L.Full] (X : C) : IsSplitEpi (h.unit.app X) :=
+  ⟨⟨h.unitSplitEpiOfLFull X⟩⟩
+
+/-- If the left adjoint is fully faithful, then the unit is an isomorphism. -/
+instance unit_isIso_of_L_fully_faithful [L.Full] [L.Faithful] : IsIso (Adjunction.unit h) := by
+  have : ∀ X, IsIso (h.unit.app X) := fun X ↦ isIso_of_mono_of_isSplitEpi _
+  apply NatIso.isIso_of_isIso_app
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:66]:
```suggestion
instance unit_isIso_of_L_fully_faithful [L.Full] [L.Faithful] : IsIso h.unit :=
  (NatTrans.isIso_iff_isIso_app _).2 fun _ => isIso_of_mono_of_isSplitEpi _
```
A golf, if you'd like

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 4]
```diff
@@ -35,50 +44,49 @@ variable {C : Type u₁} [Category.{v₁} C]
...
+noncomputable def unitSplitEpiOfLFull [L.Full] (X : C) : SplitEpi (h.unit.app X) where
+  section_ := L.preimage (h.counit.app (L.obj X))
+  id := by simp [← h.unit_naturality (L.preimage (h.counit.app (L.obj X)))]
+
+/-- If the right adjoint is full, then each component of the counit is a split monomorphism. -/
+instance unit_isSplitEpi_of_L_full [L.Full] (X : C) : IsSplitEpi (h.unit.app X) :=
+  ⟨⟨h.unitSplitEpiOfLFull X⟩⟩
+
+/-- If the left adjoint is fully faithful, then the unit is an isomorphism. -/
+instance unit_isIso_of_L_fully_faithful [L.Full] [L.Faithful] : IsIso (Adjunction.unit h) := by
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:64]: I think we also want an instance saying each component of the unit is an iso?

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 5]
```diff
@@ -35,50 +44,49 @@ variable {C : Type u₁} [Category.{v₁} C]
...
-              dsimp
-              simp only [Adjunction.homEquiv_unit, Functor.preimage_comp, Functor.preimage_map]
-              rw [← h.counit_naturality]
-              simp⟩⟩⟩
+/-- If the right adjoint is faithful, then each component of the counit is an epimorphism.-/
+instance counit_epi_of_R_faithful [R.Faithful] (X : D) : Epi (h.counit.app X) where
+  left_cancellation {Y} f g hfg := by
+    apply R.map_injective
+    apply (h.homEquiv (R.obj X) Y).symm.injective
+    simpa using hfg
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:75]:
```suggestion
  left_cancellation {Y} f g hfg :=
    R.map_injective <| (h.homEquiv (R.obj X) Y).symm.injective <| by simpa using hfg
```
as before :)

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 6]
```diff
@@ -35,50 +44,49 @@ variable {C : Type u₁} [Category.{v₁} C]
...
+  id := by simp [← h.counit_naturality (R.preimage (h.unit.app (R.obj X)))]
+
+/-- If the right adjoint is full, then each component of the counit is a split monomorphism. -/
+instance counit_isSplitMono_of_R_full [R.Full] (X : D) : IsSplitMono (h.counit.app X) :=
+  ⟨⟨h.counitSplitMonoOfRFull X⟩⟩
+
+/-- If the right adjoint is fully faithful, then the counit is an isomorphism. -/
+instance counit_isIso_of_R_fully_faithful [R.Full] [R.Faithful] : IsIso (Adjunction.counit h) := by
+  have : ∀ X, IsIso (h.counit.app X) := fun X ↦ isIso_of_epi_of_isSplitMono _
+  apply NatIso.isIso_of_isIso_app
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:89]:
```suggestion
instance counit_isIso_of_R_fully_faithful [R.Full] [R.Faithful] : IsIso (Adjunction.counit h) :=
  (NatTrans.isIso_iff_isIso_app _).2 fun _ => isIso_of_epi_of_isSplitMono _
```
as before

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 7]
```diff
@@ -112,10 +120,42 @@ noncomputable def whiskerLeftRUnitIsoOfIsIsoCounit [IsIso h.counit] : R ⋙ L 
 set_option linter.uppercaseLean3 false in
 #align category_theory.whisker_left_R_unit_iso_of_is_iso_counit CategoryTheory.Adjunction.whiskerLeftRUnitIsoOfIsIsoCounit
 
+/-- If each component the unit is a monomorphism, then the left adjoint is faithful. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:123]:
```suggestion
/-- If each component of the unit is a monomorphism, then the left adjoint is faithful. -/
```

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 8]
```diff
@@ -112,10 +120,42 @@ noncomputable def whiskerLeftRUnitIsoOfIsIsoCounit [IsIso h.counit] : R ⋙ L 
...
+lemma faithful_L_of_mono_unit_app [∀ X, Mono (h.unit.app X)] : L.Faithful where
+  map_injective {X Y f g} hfg := by
+    apply Mono.right_cancellation (f := h.unit.app Y)
+    apply (h.homEquiv X (L.obj Y)).symm.injective
+    simpa using hfg
+
+/-- If each component the unit is a split epimorphism, then the left adjoint is full. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:130]:
```suggestion
/-- If each component of the unit is a split epimorphism, then the left adjoint is full. -/
```

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 9]
```diff
@@ -112,10 +120,42 @@ noncomputable def whiskerLeftRUnitIsoOfIsIsoCounit [IsIso h.counit] : R ⋙ L 
...
   preimage {X Y} f := h.homEquiv _ (L.obj Y) f ≫ inv (h.unit.app Y)
 
+/-- If each component the counit is an epimorphism, then the right adjoint is faithful. -/
+lemma faithful_R_of_epi_counit_app [∀ X, Epi (h.counit.app X)] : R.Faithful where
+  map_injective {X Y f g} hfg := by
+    apply Epi.left_cancellation (f := h.counit.app X)
+    apply (h.homEquiv (R.obj X) Y).injective
+    simpa using hfg
+
+/-- If each component the counit is a split monomorphism, then the right adjoint is full. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:150]:
```suggestion
/-- If each component of the counit is a split monomorphism, then the right adjoint is full. -/
```

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 10]
```diff
@@ -112,10 +120,42 @@ noncomputable def whiskerLeftRUnitIsoOfIsIsoCounit [IsIso h.counit] : R ⋙ L 
...
+    suffices L.map (section_ (h.unit.app Y)) = h.counit.app (L.obj Y) by simp [this]
+    rw [← comp_id (L.map (section_ (h.unit.app Y)))]
+    simp only [Functor.comp_obj, Functor.id_obj, comp_id, ← h.left_triangle_components Y,
+      ← assoc, ← Functor.map_comp, IsSplitEpi.id, Functor.map_id, id_comp]
+
 /-- If the unit is an isomorphism, then the left adjoint is fully faithful. -/
 noncomputable def fullyFaithfulLOfIsIsoUnit [IsIso h.unit] : L.FullyFaithful where
   preimage {X Y} f := h.homEquiv _ (L.obj Y) f ≫ inv (h.unit.app Y)
 
+/-- If each component the counit is an epimorphism, then the right adjoint is faithful. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:143]:
```suggestion
/-- If each component of the counit is an epimorphism, then the right adjoint is faithful. -/
```

**Review by b-mehta — APPROVED** [review]

**Comment by dagurtomas** [comment]
Thanks for the review!

**Review by b-mehta — APPROVED** [review]
bors merge
